US04515948
A suspension of 30.1 g. of dimethylsulfone and 11.5 g. of sodium hydride (50% dispersion in oil) in 80 ml. of dimethylsulfoxide was stirred at 50° C. for 3 hours with the exclusion of moisture. Then, 20.3 g. of 4-acetamido-3,5-dimethoxybenzoic acid methyl ester were added and the mixture was stirred at room temperature for an additional 20 hours. Thereafter, the solution was diluted with 1 liter of water and extracted with three 1 liter portions of ethyl acetate. The ethyl acetate extracts were washed with two 300 ml. portions of water, combined, dried over magnesium sulfate and evaporated to dryness under vacuum. Recrystallization of the residue from ethyl acetate gave 2',6'-dimethoxy-4'-[(methylsulfonyl-acetyl)]acetanilide having a melting point of 206°-207° C.

reactant | dimethylsulfone | CS(=O)(=O)C | C2H6O2S
reactant | sodium hydride | [H-].[Na+]
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | 4-acetamido-3,5-dimethoxybenzoic acid methyl ester | COC(C1=CC(=C(C(=C1)OC)NC(C)=O)OC)=O | C12H15NO5
solvent | water | 1 liter | O | H2O
product | 2',6'-dimethoxy-4'-[(methylsulfonyl-acetyl)]acetanilide | COC1=C(NC(C)=O)C(=CC(=C1)C(CS(=O)(=O)C)=O)OC | C13H17NO6S
